US05185346
A mixture of 8.6 parts of 7-quinolinemethanol, 20 parts of manganese(IV)oxide and 130 parts of dichloromethane was stirred for 24 hours at room temperature. The reaction mixture was filtered over diatomaceous earth and the filtrate was evaporated. The residue was purified by column chromatography (silica gel; CH2Cl2 /CH3OH 98.2). The eluent of the desired fraction was evaporated, yielding 8 parts (94.2%) of 7-quinolinecarboxaldehyde; mp. 56° C.(interm. 1).

reactant | 7-quinolinemethanol | N1=CC=CC2=CC=C(C=C12)CO | C10H9NO
catalyst | manganese(IV)oxide | [O-2].[Mn+4].[O-2]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-quinolinecarboxaldehyde | 94.2% | N1=CC=CC2=CC=C(C=C12)C=O | C10H7NO
